US04820703
A suspension of 2 g of 5-(2-chlorophenyl)-7-[2-(4-isobutylphenyl)ethyl]-3-methyl-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepin-2-one, melting at 188°-191° C. and 1.04 g of Lawesson reagent in 37 ml of toluene is stirred at 40°-45° C. for an hour. The resultant solution is concentrated under reduced pressure, and the residue is subjected to chromatography on silica gel and then eluted with chloroform-methanol (100:1 to 100:2). The objective fraction is concentrated under reduced pressure to give 1.2 g of 5-(2-chlorophenyl)-7-[2-(4-isobutylphenyl)ethyl]-3-methyl-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione.

reactant | 5-(2-chlorophenyl)-7-[2-(4-isobutylphenyl)ethyl]-3-methyl-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepin-2-one | 2 g | ClC1=C(C=CC=C1)C=1C2=C(NC(C(N1)C)=O)SC(=C2)CCC2=CC=C(C=C2)CC(C)C | C26H27ClN2OS
reactant | Lawesson reagent | 1.04 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 37 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-chlorophenyl)-7-[2-(4-isobutylphenyl)ethyl]-3-methyl-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione | 1.2 g | ClC1=C(C=CC=C1)C=1C2=C(NC(C(N1)C)=S)SC(=C2)CCC2=CC=C(C=C2)CC(C)C | C26H27ClN2S2
